US04597902
N'-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N-[1-methyl-2-(phenylsulfonyl)ethyl]urea hydrate[1:1]
A solution of 3.71 g (0.032 mole) of N,N-diethylethylenediamine and 5.83 (0.036 mole) of 1,1'-carbonyldiimidazole in 400 ml of tetrahydrofuran was stirred at room temperature for 1 hr. A solution of 8.30 g (0.030 mole) of N-(2-propyl)-1-(phenylsulfonyl)-2-propanamine in 50 ml of tetrahydrofuran was added and the solution was refluxed overnight. The solvent was removed in vacuo, and the residue was partitioned between ether and water. The ether solution was dried over magnesium sulfate and the solvent was removed in vacuo to give an oil. The oil was flash chromatographed (silica gel; elution with methanol) to give an oil. Crystallization from ether gave 0.54 g (4.5%) of white, crystalline solid, m.p. 75°-80° C.

reactant | N,N-diethylethylenediamine | 0.032 mole, 3.71 g | C(C)N(CCN)CC | C6H16N2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-(2-propyl)-1-(phenylsulfonyl)-2-propanamine | 0.030 mole, 8.30 g | CC(C)NC(CS(=O)(=O)C1=CC=CC=C1)C | C12H19NO2S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N'-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N-[1-methyl-2-(phenylsulfonyl)ethyl]urea hydrate | O.C(C)N(CCNC(N(C(CS(=O)(=O)C1=CC=CC=C1)C)C(C)C)=O)CC | InChI=1S/C19H33N3O3S.H2O/c1-6-21(7-2)14-13-20-19(23)22(16(3)4)17(5)15-26(24,25)18-11-9-8-10-12-18;/h8-12,16-17H,6-7,13-15H2,1-5H3,(H,20,23);1H2
